US07199147B2
Oxalyl dichloride (38.7 μl, 0.444 mmol) and N,N-dimethylformamide (about 1 μl) were added to a solution of the 1H-indazole-5-carboxylic acid (40.0 mg, 0.247 mmol) obtained in Reference Example 1 in dichloromethane (2.5 ml), and the resulting mixture was stirred at room temperature for 0.5 hour and then was stirred with heating under reflux for 2 hours while maintaining the temperature. The reaction solution was concentrated to dryness and a solution of the resulting residue in tetrahydrofuran (1.5 ml) was added dropwise to a solution of 1-phenylcyclohexylamine (130 mg, 0.742 mmol) in tetrahydrofuran (2.0 ml). The resulting mixture was stirred for 18 hours while being maintained at room temperature. A 5% aqueous sodium bicarbonate solution was added to the reaction solution and stirred, followed by extraction with ethyl acetate. The organic phase was washed with a 5% aqueous sodium chloride solution and then dried over anhydrous sodium sulfate. The organic phase dried was concentrated under reduced pressure, and the resulting crude product was purified by a silica gel column chromatography (eluent: chloroform/methanol=50/1 to 30/1) to obtain N-(1-phenylcyclohexyl)-1H-indazole-5-carboxamide (62 mg, 78%).

reactant | Oxalyl dichloride | 0.444 mmol, 38.7 μl | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 1H-indazole-5-carboxylic acid | 0.247 mmol, 40.0 mg | N1N=CC2=CC(=CC=C12)C(=O)O | C8H6N2O2
reactant | 1-phenylcyclohexylamine | 0.742 mmol, 130 mg | C1(=CC=CC=C1)C1(CCCCC1)N | C12H17N
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 2.5 ml | ClCCl | CH2Cl2
solvent | tetrahydrofuran | 1.5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2.0 ml | O1CCCC1 | C4H8O
solvent | N,N-dimethylformamide | about 1 μl | CN(C=O)C | C3H7NO
product | N-(1-phenylcyclohexyl)-1H-indazole-5-carboxamide | 62 mg, 78% | C1(=CC=CC=C1)C1(CCCCC1)NC(=O)C=1C=C2C=NNC2=CC1 | C20H21N3O
